US09260427B2
To a stirring solution of methyl (S)-pyrrolidine-3-carboxylate (357.0 mg, 2.16 mmol) in DMF (10 mL) were added DIEA (465.26 mg, 3.60 mmol) and (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoic acid (700.0 mg, 1.44 mmol). The solution was cooled to 0° C. at ice bath and then HATU (677.55 mg, 2.88 mmol) in 2 mL DMF solution was slowly added. The reaction was stirred 1 hour at 0° C. and then warmed to RT with stirring for 2 hours. The reaction solution was extracted with DCM (3×20 mL) and aqueous NaHCO3 (3×10 mL). The combined organics were dried over MgSO4 and evaporated. The final compound was purified by column chromatography (40% DCM in hexane) to afford 501.0 mg (58%) of methyl (S)-1-((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoyl)pyrrolidine-3-carboxylate INT-35 as a powder. LCMS-ESI (m/z calculated for C28H31BrN4O4S: 598.1. found 599.3 [M+H]+, tR=3.553 min. (Method 16). 1H NMR (400 MHz, DMSO) δ 9.05 (d, J=1.1 Hz, 2H), 8.77 (dd, J=11.5, 8.3 Hz, 1H), 8.25 (d, J=7.7 Hz, 2H), 7.72 (d, J=3.5 Hz, 1H), 7.46 (d, J=8.3 Hz, 2H), 6.92 (d, J=3.8 Hz, 1H), 4.98-4.73 (m, 1H), 3.88 (dd, J=10.3, 8.0 Hz, 1H), 3.71 (dd, J=15.5, 7.5 Hz, 1H), 3.50 (ddd, J=18.3, 12.2, 5.4 Hz, 2H), 3.38 (dd, J=17.3, 7.6 Hz, 1H), 3.23 (ddd, J=28.0, 15.0, 8.7 Hz, 1H), 3.18-2.85 (m, 3H), 2.17-1.96 (m, 2H), 1.87 (td, J=15.2, 7.4 Hz, 1H), 1.32 (s, 9H).

reactant | methyl (S)-pyrrolidine-3-carboxylate | 2.16 mmol, 357.0 mg | N1C[C@H](CC1)C(=O)OC | C6H11NO2
reactant | DIEA | 3.60 mmol, 465.26 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoic acid | 1.44 mmol, 700.0 mg | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C=1SC(=CC1)C(C)(C)C | C22H22BrN3O3S
reactant | HATU | 2.88 mmol, 677.55 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl (S)-1-((S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoyl)pyrrolidine-3-carboxylate | 501.0 mg, 58% | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)N1C[C@H](CC1)C(=O)OC)NC(=O)C=1SC(=CC1)C(C)(C)C | C28H31BrN4O4S
